US06972287B1
Preparation of 2-{4-[3-(3,4-Dichlorophenyl)propyl]phenylamino}-4-methoxy-5-nitrobenzoic acid
To a solution of 2-{4-[3-(3,4-dichlorophenyl)propyl]phenylamino}-4-methoxy-5-nitrobenzoic acid methyl ester (0.30 g, 0.061 mol) in THF (5 mL), 1N NaOH (aq.) (2.5 mL) was added, and the mixture was stirred for 36 hours at room temperature. The solvent was removed, and the residue was acidified with concentrated HCl to pH 3. The precipitate was collected by filtration and dried in vacuum for 16 hours. Recrystallization with MeOH gave the title compound as an orange solid 0.21 g (0.043 mol. 70%). mp 200-201° C.

reactant | 2-{4-[3-(3,4-dichlorophenyl)propyl]phenylamino}-4-methoxy-5-nitrobenzoic acid methyl ester | 0.061 mol, 0.30 g | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])OC)NC1=CC=C(C=C1)CCCC1=CC(=C(C=C1)Cl)Cl)=O | C24H22Cl2N2O5
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | NaOH | 1N, 2.5 mL | [OH-].[Na+]
product | 2-{4-[3-(3,4-Dichlorophenyl)propyl]phenylamino}-4-methoxy-5-nitrobenzoic acid | 0.043 mol, 0.21 g, 70% | ClC=1C=C(C=CC1Cl)CCCC1=CC=C(C=C1)NC1=C(C(=O)O)C=C(C(=C1)OC)[N+](=O)[O-] | C23H20Cl2N2O5
